US04748171
p-Methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate (700 mg) was dissolved in a mixed solution of ethyl acetate (50 ml) and methanol (1 ml). After the whole was ice-cooled, a solution of ethyl acetate (2.8 ml) of 4-methyl-quinuclidine (114 mg) was added thereto, and the mixture was stirred for 15 minutes. The resulting precipitate was recovered by filtration, followed by wasing with ethyl acetate to obtain p-methoxybenzyl 7β-[(Z)-2-(5-amino 1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-methyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate iodide (770 mg).

reactant | p-Methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-iodomethyl-3-cephem-4-carboxylate | 700 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C21H21IN6O6S2
reactant | 4-methyl-quinuclidine | 114 mg | CC12CCN(CC1)CC2 | C8H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
solvent | ethyl acetate | 2.8 ml | C(C)(=O)OCC | C4H8O2
product | p-methoxybenzyl 7β-[(Z)-2-(5-amino 1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-methyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate iodide | 770 mg | [I-].NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]23CCC(CC2)(CC3)C)C(=O)OCC3=CC=C(C=C3)OC)C1=O)=N/OC | InChI=1S/C29H35N7O6S2.HI/c1-29-8-11-36(12-9-29,13-10-29)14-18-16-43-26-21(31-24(37)20(33-41-3)23-32-28(30)44-34-23)25(38)35(26)22(18)27(39)42-15-17-4-6-19(40-2)7-5-17;/h4-7,21,26H,8-16H2,1-3H3,(H2-,30,31,32,34,37);1H/b33-20-;/t21-,26-,29?,36?;/m1./s1
